US06894061B2
N-(4-Chloro-1,1′-biphenyl-2-yl)acetamide
A stirred solution of 4-chloro-1,1′-biphenyl-2-ylamine (3.46 g, 17.0 mmol) in dichloromethane (8.5 mL) was treated with pyridine (3.2 mL, 39 mmol), acetic anhydride (1.77 mL, 18.7 mmol), and 4-(dimethylamino)pyridine (0.62 g, 0.51 mmol) and stirred at room temperature for 12 hours. A saturated, aqueous solution of ammonium chloride (150 mL) was added, and the layers were separated. The aqueous phase was extracted with dichloromethane (3×75 mL). The combined organic phase was washed sequentially with a 0.1 N hydrochloric acid solution (2×50 mL) and a saturated, aqueous sodium bicarbonate solution (50 mL), dried over anhydrous sodium sulfate, filtered and the solvent evaporated in vacuo to yield a brown oil. Toluene was added and removed in vacuo (×3) to afford a brown solid which, upon trituration with ethyl acetate/hexane, afforded the title compound as a homogeneous, colorless, crystalline solid (2.28 g, 93%), m.p. 125-127° C.;

reactant | 4-chloro-1,1′-biphenyl-2-ylamine | 17.0 mmol, 3.46 g | ClC1=CC(=C(C=C1)C1=CC=CC=C1)N | C12H10ClN
reactant | pyridine | 39 mmol, 3.2 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 18.7 mmol, 1.77 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium chloride | 150 mL | [Cl-].[NH4+]
solvent | dichloromethane | 8.5 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.51 mmol, 0.62 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chloro-1,1′-biphenyl-2-yl)acetamide | ClC1=CC(=C(C=C1)C1=CC=CC=C1)NC(C)=O | C14H12ClNO
